US07462623B2
4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxy 7-(piperidin-4-ylmethoxy)quinazoline
Trifluoroacetic acid (1 ml) was added to a solution of 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline (0.253 g) in methylene chloride (10 ml) and the reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was evaporated. Toluene was added to the residue and the mixture was evaporated. The residue was purified by column chromatography on silica (Isolute SCX column) using a 7M methanolic ammonia solution as eluent. There was thus obtained the title compound as a solid (0.187 g); NMR Spectrum: (DMSOd6) 1.25 (m, 2H), 1.75 (d, 2H), 1.93 (m, 1H), 2.54 (m, 2H), 3.0 (d, 2H), 3.93 (s, 3H), 3.98 (d, 2H), 6.17 (s, 2H), 7.15 (s, 1H), 7.76 (s, 1H), 7.78 (s, 1H), 8.23 (s, 1H); Mass Spectrum: M+H+ 444 and 446.

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline | 0.253 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1Cl)OCO2)OC | C26H30ClN5O6
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxy 7-(piperidin-4-ylmethoxy)quinazoline | 0.187 g | ClC=1C(=C2C(=NC1)OCO2)NC2=NC=NC1=CC(=C(C=C21)OC)OCC2CCNCC2 | C21H22ClN5O4
